US07541374B2
1.21 g of 1-(hydroxymethyl)-3-formyl-1H-pyrazole was dissolved to 50 ml of dichloromethane. 2.4 ml of thionyl chloride was added to the solution, followed by stirring at room temperature for overnight. The reaction mixture was concentrated under reduced pressure to obtain 1.57 g of 1-(chloromethyl)-3-formyl-1H-pyrazole hydrochloride.

reactant | 1-(hydroxymethyl)-3-formyl-1H-pyrazole | 1.21 g | OCN1N=C(C=C1)C=O | C5H6N2O2
reactant | thionyl chloride | 2.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(chloromethyl)-3-formyl-1H-pyrazole hydrochloride | 1.57 g | Cl.ClCN1N=C(C=C1)C=O | InChI=1S/C5H5ClN2O.ClH/c6-4-8-2-1-5(3-9)7-8;/h1-3H,4H2;1H
